US07211601B2
(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[(1S,2R,3S,4R)-3-(hydroxymethyl)bicyclo[2.2.1]hept-2-yl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbonyl chloride, and [(1R,2S,3R,4S)-3-aminobicyclo[2.2.1]hept-2-yl]methanol, the title compound was obtained in 64% purity by HPLC. MS(ESI+): m/z=462.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | [(1R,2S,3R,4S)-3-aminobicyclo[2.2.1]hept-2-yl]methanol | N[C@H]1[C@H]([C@@H]2CC[C@H]1C2)CO | C8H15NO
product | (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[(1S,2R,3S,4R)-3-(hydroxymethyl)bicyclo[2.2.1]hept-2-yl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)N[C@@H]1[C@H]2CC[C@@H]([C@@H]1CO)C2)C2=CC=CC=C2 | C27H31N3O4
